US05708008
To a solution of 2.09 gm (15.8 mMol) 5-amino-1H-indole in 20 mL tetrahydrofuran were added 2.6 mL (18.97 mMol) triethylamine and the solution was cooled in an ice bath. To the reaction mixture were then added dropwise 1.71 ml (17.4 mMol) 2-furoyl chloride. When this addition was complete the cooling bath was removed and the reaction mixture was stirred 1.5 hours at ambient temperature. At this point the reaction was diluted with water and extracted well with ethyl acetate. The organic solutions were combined and washed sequentially with water, 2N sodium hydroxide, water and saturated aqueous sodium chloride. The remaining organics were then dried over sodium sulfate and concentrated under reduced pressure to give a dark purple solid. The solid was subjected to flash chromatography, eluting with a gradient of dichloromethane containing 0-2% methanol. The recovered solid was crystallized from ethyl acetate to give 1.8 gm (50.3%) of 5-(2-furoyl)amino-1H-indole as pale purple crystals.

reactant | 5-amino-1H-indole | 15.8 mMol, 2.09 gm | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 18.97 mMol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 17.4 mMol, 1.71 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-(2-furoyl)amino-1H-indole | 1.8 gm, 50.3% | O1C(=CC=C1)C(=O)NC=1C=C2C=CNC2=CC1 | C13H10N2O2
